US08957033B2
At 0° C., NaH (1.6 g) was added into a solution of (5-bromo-2-chlorophenyl)(4-hydroxyphenyl)methanone (6.2 g) in dry DMF (40 mL). The mixture was stirred at room temperature for 1 h. Then CF3CH2OTf (9.3 g) was slowly added into the mixture at 0° C. The mixture was stirred at room temperature for 0.5 h. Saturated NH4Cl aqueous solution was added slowly into the mixture, and the mixture was extracted with EtOAc. The organic phases were combined, dried over Na2SO4 and concentrated to obtain the crude product, then the crude product was purified by silica-gel column chromatography (PE/EA=20/1) to obtain 5.0 g of (5-bromo-2-chlorophenyl)(4-(2,2,2-trifluoroethoxy)phenyl)methanone.

reactant | NaH | 1.6 g | [H-].[Na+]
reactant | (5-bromo-2-chlorophenyl)(4-hydroxyphenyl)methanone | 6.2 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)O)Cl | C13H8BrClO2
reactant | CF3CH2OTf | 9.3 g | C(F)(F)(F)COS(=O)(=O)C(F)(F)F | C3H2F6O3S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (5-bromo-2-chlorophenyl)(4-(2,2,2-trifluoroethoxy)phenyl)methanone | 5.0 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OCC(F)(F)F)Cl | C15H9BrClF3O2
